US05525625
To a 300-mL, three-neck, round-bottom flask with a mechanical stirrer is added potassium tert.-butoxide (2.5 g, 22 mmol). The flask is cooled to 0° C. and dry THF (10 mL) is added. To this solution, 2-hydroxy-acetophenone (3.5 mL, 18.6 mmol) in THF (10 mL) is added slowly over 30 minutes keeping the temperature below 5° C. The resulting yellow paste is warmed to 25° C. and stirred for 35 minutes. The mixture is cooled to 0° C. and 3-methoxy-2-nitrobenzoyl chloride (4.3 g, 20 mmol) in THF (15 mL) is added slowly over 15 minutes, keeping the temperature below 5° C. The mixture is warmed to 25° C. and stirred for 1 hour. The mixture is cooled to 5° C. and solid potassium tert.-butoxide (2.5 g, 22 mmol) is added forming a dark brown paste. THF (30 mL) is added and the mixture is heated at reflux for 3 hours. The mixture is cooled to 25° C. and 3N HCl is added until the pH falls to 2. The mixture is concentrated under reduced pressure to leave a brown solid. The brown solid is dissolved in CH2Cl2 (200 mL) and H2O (50 mL), washed with saturated NaHCO3 solution (200 mL), saturated brine (200 mL), and H2O (200 mL). The organic layer is dried (Na2SO4) and concentrated under reduced pressure to yield 1-(2-hydroxyphenyl)-3-(3-methoxy-2-nitrophenyl)propane-1,3-dione (5.52 g, 79%) as a tautomeric mixture.

reactant | potassium tert.-butoxide | 22 mmol, 2.5 g | CC(C)([O-])C.[K+]
reactant | 2-hydroxy-acetophenone | 18.6 mmol, 3.5 mL | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | 3-methoxy-2-nitrobenzoyl chloride | 20 mmol, 4.3 g | COC=1C(=C(C(=O)Cl)C=CC1)[N+](=O)[O-] | C8H6ClNO4
reactant | potassium tert.-butoxide | 22 mmol, 2.5 g | CC(C)([O-])C.[K+]
reactant | HCl | 3N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-hydroxyphenyl)-3-(3-methoxy-2-nitrophenyl)propane-1,3-dione | 5.52 g, 79% | OC1=C(C=CC=C1)C(CC(=O)C1=C(C(=CC=C1)OC)[N+](=O)[O-])=O | C16H13NO6
